US08497376B2
e) 2-Bromo-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine
To a solution of 6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine (as prepared in the previous step, 13.5 g, 0.057 mol) in DCM (100 mL) was added a solution of freshly recrystallized NBS (10.2 g, 0.0570 mol) in DCM (300 mL) dropwise at 0° C. for 1 h. The reaction mixture was allowed to warm to RT, stirred for 30 min and then treated with satd aq Na2CO3 (300 mL). The organic phase was washed with 10% Na2S2O3 (300 mL) and water (300 mL), dried (Na2SO4) and concentrated to obtain the title compound as red solid (17.1 g, 95%) which was directly used in the next step without further purification. 1H-NMR (CDCl3; 400 MHz): δ 6.95 (d, 1H, J=8.1 Hz), 6.91 (d, 1H, j=8.1 Hz), 4.03 (br s, 2H), 3.08 (m, 1H), 1.73 (m, 2H), 1.44 (m, 2H), 1.28 (s, 6H), 1.26 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C14H21BrN2O, 313.2 and 315.2 (M+H), found 313.2 and 315.1.

reactant | 6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine | CC1(OC(CC(C1)C1=CC=C(C=N1)N)(C)C)C | C14H22N2O
reactant | NBS | 0.0570 mol, 10.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2CO3 | 300 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine | 17.1 g, 95% | BrC1=NC(=CC=C1N)C1CC(OC(C1)(C)C)(C)C | C14H21BrN2O
